US04242272
30.0 g (300 millimol) of dichlorosilane, 56.5 g (543 millimol) of styrene and 50 ml of an isopropanol solution of chloroplatinic acid [H2PtCl6.6H2O (4.83×10-6 mol)] were charged in a 200 ml pressure-proof stainless steel reaction tube and reaction was carried out as in example 3 by heating in an oil bath at 50° C. for 15 hours with stirring. After reaction, the reacted liquid resinified and no diphenethyldichlorosilane was obtained.

reactant | dichlorosilane | 300 millimol, 30.0 g | Cl[SiH2]Cl | Cl2H2Si
reactant | styrene | 543 millimol, 56.5 g | C=CC1=CC=CC=C1 | C8H8
catalyst | chloroplatinic acid | 4.83×10-6 mol | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | diphenethyldichlorosilane | C(CC1=CC=CC=C1)[Si](Cl)(Cl)CCC1=CC=CC=C1 | C16H18Cl2Si
